US07456164B2
N-[(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine
1-(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine was stirred with 2-bromopyridine (60 μl, 0.63 mmol), tris(dibenzylideneacetone)dipalladium(0) (15 mg, 0.018 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (19 mg, 0.036 mmol) and sodium tert-butoxide (90 mg, 0.94 mmol) and heated at 80° C. in toluene (5 ml) for 3 hours under nitrogen. The reaction mixture was partitioned between aqueous sodium hydroxide (50 ml) and ethyl acetate (80 ml). The organics were dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (97:3:0.3 to 90:10:1 by volume) to give the product which required further purification by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4 to 94:6:0.6 by volume) to give a pale yellow oil which crystallized on standing, this was triturated with diethyl ether (2 ml) to give the title compound as a pale yellow powder (65 mg, 26%). 1H NMR (400 MHz, CDCl3) δ 8.02 (d, 1H), 7.31 (t, 1H), 7.25 (d, 2H), 6.91 (d, 2H), 6.50 (t, 1H), 6.20 (d, 1H), 4.09 (d, 2H), 3.99 (t, 1H), 3.82 (m, 2H), 3.59 (m, 2H), 3.48 (d, 2H), 3.45 (m, 2H), 3.03 (m, 2H), 2.88 (m, 1H), 2.33 (m, 1H), 2.13 (m, 2H), 1.92 (m, 2H), 0.93 (d, 6H). LRMS ESI+ m/z 396 [M+H]+. HRMS ESI+ m/z 396.2639 [M+H]+.

reactant | 1-(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | C(C)(C)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | 2-bromopyridine | 0.63 mmol, 60 μl | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.036 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.94 mmol, 90 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.018 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine | 65 mg, 26% | C(C)(C)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1 | C24H33N3O2
